US07728142B2
6-Iodo-2-methyl-4H-3,1-benzoxazin-4-one
2-Amino-5-iodobenzoic acid (25.4 g, 96.6 mmol) was added in portions to cold acetic anhydride (100 mL). The suspension was first stirred without cooling, then the resulting thick precipitate was heated at reflux for 1 h (red solution). The product crystallized spontaneously upon cooling. After stirring in ice for 30 min, the crystals were filtered off and washed twice with heptane. The crystals were thoroughly dried at 0.1 mbar/50° C. One obtained 25.1 g (90%) of beige crystals. MS: m/z=287 (M).

reactant | 2-Amino-5-iodobenzoic acid | 96.6 mmol, 25.4 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 6-Iodo-2-methyl-4H-3,1-benzoxazin-4-one | 25.1 g, 90% | IC=1C=CC2=C(C(OC(=N2)C)=O)C1 | C9H6INO2
